US09029295B2
Production of 4-(2,6-diethyl-4-methylphenyl)-6-hydroxymethyl-5-hydroxy-2-methyl-3(2H)-pyridazinone (Compound (I-24-1))
To a solution of 4-(2,6-diethyl-4-methylphenyl)-6-hydroxymethyl-5-(4-methylphenylsulfonyl)-2-methyl-3(2H)-pyridazinone (2.58 g, 5.85 mmol) in 1,3-dimethylimidazolidinone (30 ml) was added 2N aqueous sodium hydroxide solution (15 ml), and stirred at 70° C. for 12 hours. After cooling to room temperature, 2N hydrochloric acid (25 ml) was added, and extracted with ethyl acetate 2 times. The combined organic layer was washed with water 2 times, washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1 to 1:2) to give 842 mg of Compound (I-24-1) (yield: 47%) as solid.

reactant | 4-(2,6-diethyl-4-methylphenyl)-6-hydroxymethyl-5-(4-methylphenylsulfonyl)-2-methyl-3(2H)-pyridazinone | 5.85 mmol, 2.58 g | C(C)C1=C(C(=CC(=C1)C)CC)C=1C(N(N=C(C1S(=O)(=O)C1=CC=C(C=C1)C)CO)C)=O | C24H28N2O4S
reactant | sodium hydroxide | 2N, 15 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N, 25 ml | Cl | ClH
solvent | 1,3-dimethylimidazolidinone | 30 ml | CN1C(N(CC1)C)=O | C5H10N2O
product | 4-(2,6-diethyl-4-methylphenyl)-6-hydroxymethyl-5-hydroxy-2-methyl-3(2H)-pyridazinone | 842 mg, yield: 47% | C(C)C1=C(C(=CC(=C1)C)CC)C=1C(N(N=C(C1O)CO)C)=O | C17H22N2O3
